US04810720
A mixture of 29 g (0.1 mol) of 2,6-dichloro-4-trifluoromethylphenylhydrazine hydrochloride and 21 g (0.1 mol) of 1-dimethylamino-2-trifluoromethylthio-but-1-en-3-one in 150 ml of ethanol is stirred for 16 hours at 70° C. to 75° C. The mixture is worked up by concentrating in vacuo, the residue is taken up in chloroform, washed with water, dried over sodium sulphate and concentrated in vacuo, and the residue is distilled in a high vacuum. 26 g (61% of theory) of 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethylthiopyrazole of boiling point 140° C. at 0.02 mbar and of melting point 54° C.-56° C. are obtained.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine hydrochloride | 0.1 mol, 29 g | Cl.ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN
reactant | 1-dimethylamino-2-trifluoromethylthio-but-1-en-3-one | 0.1 mol, 21 g | CN(C=C(C(C)=O)SC(F)(F)F)C | C7H10F3NOS
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(2,6-dichloro-4-trifluoromethyl-phenyl)-5-methyl-4-trifluoromethylthiopyrazole | 26 g, 61% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=CC(=C1C)SC(F)(F)F | C12H6Cl2F6N2S
